US08030499B2
Step 268-1: Synthesis of 3-(1,3-benzodioxol-5-yl)-5-chloro-3-hydroxy-1,3-dihydro-2H-indol-2-one
With 3.00 g of 5-bromo-1,3-benzodioxol and 1.86 g of 5-chloroisatin as starting materials, 2.32 g of the title compound was obtained by a similar method to Step 21-1.

reactant | 5-bromo-1,3-benzodioxol | 3.00 g | BrC1=CC2=C(OCO2)C=C1 | C7H5BrO2
reactant | 5-chloroisatin | 1.86 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 3-(1,3-benzodioxol-5-yl)-5-chloro-3-hydroxy-1,3-dihydro-2H-indol-2-one | 2.32 g | O1COC2=C1C=CC(=C2)C2(C(NC1=CC=C(C=C21)Cl)=O)O | C15H10ClNO4
